US08207205B2
Step 2: 3-(3,5-Dibromo-4-(4-methoxybenzyloxy)phenyl)-N-(3-(trifluoromethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide (Compound E)
Ethyl 3-(3,5-dibromo-4-(4-methoxybenzyloxy)phenyl)-1,2,4-oxadiazole-5-carboxylate (2.6 g, 50 mmol) was heated at reflux with 3-(trifluoromethyl)benzylamine (1.75 g, 100 mmol) in ethanol (30 mL) for 7 h. The mixture was cooled and filtered. The solid was washed with cold ethanol and dried to give the title compound (3.1 g) as a colourless powder. 1H NMR δ (ppm) (DMSO-d6): 3.81 (3H, s), 4.62 (2H, d), 5.04 (2H, s), 6.99 (2H, d), 7.51 (2H, d), 7.61-7.73 (3H, m), 7.79 (1H, s), 8.31 (2H, s), 10.11 (1H, t).

reactant | Ethyl 3-(3,5-dibromo-4-(4-methoxybenzyloxy)phenyl)-1,2,4-oxadiazole-5-carboxylate | 50 mmol, 2.6 g | BrC=1C=C(C=C(C1OCC1=CC=C(C=C1)OC)Br)C1=NOC(=N1)C(=O)OCC | C19H16Br2N2O5
reactant | 3-(trifluoromethyl)benzylamine | 100 mmol, 1.75 g | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(3,5-Dibromo-4-(4-methoxybenzyloxy)phenyl)-N-(3-(trifluoromethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide | 3.1 g | BrC=1C=C(C=C(C1OCC1=CC=C(C=C1)OC)Br)C1=NOC(=N1)C(=O)NCC1=CC(=CC=C1)C(F)(F)F | C25H18Br2F3N3O4
